US08754226B2
(S)-tert-butyl 3-amino-2-oxo-1,4′-bipiperidine-1′-carboxylate (4.0 g, 13 mmol), 1,2,4-trifluoro-5-(methylsulfonyl)benzene (Preparation C, 4.2 g, 20 mmol) and Na2CO3 (2.9 g, 27 mmol) were dissolved in DMF (30 mL) and heated at 130° C. overnight. The reaction was concentrated and purified over silica gel (25-75% EtOAc in hexanes) to afford (S)-tert-butyl 3-(2,5-difluoro-4-(methylsulfonyl)phenylamino)-2-oxo-1,4′-bipiperidine-1′-carboxylate (4.6 g, 9.4 mmol, 70% yield) as yellow solid.

reactant | (S)-tert-butyl 3-amino-2-oxo-1,4′-bipiperidine-1′-carboxylate | 13 mmol, 4.0 g | N[C@@H]1C(N(CCC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H27N3O3
reactant | 1,2,4-trifluoro-5-(methylsulfonyl)benzene | 20 mmol, 4.2 g | FC1=C(C=C(C(=C1)S(=O)(=O)C)F)F | C7H5F3O2S
reactant | Na2CO3 | 27 mmol, 2.9 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (S)-tert-butyl 3-(2,5-difluoro-4-(methylsulfonyl)phenylamino)-2-oxo-1,4′-bipiperidine-1′-carboxylate | 9.4 mmol, 4.6 g, 70% yield | FC1=C(C=C(C(=C1)S(=O)(=O)C)F)N[C@@H]1C(N(CCC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H31F2N3O5S
